US04734496
(B) (3S-cis)-3-Amino-4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-2-azetidinone
(3S-cis)-4-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-3-[(triphenylmethyl)amino]-2-azetidinone(7 g) and 2.81 g of p-toluenesulfonic acid are stirred in 50 ml of chloroform for 1 hour at 0° C. and for 3 hours at room temperature. The title compound is collected.

reactant | (3S-cis)-4-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-3-[(triphenylmethyl)amino]-2-azetidinone | 7 g | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H23N3O3
reactant | p-toluenesulfonic acid | 2.81 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (3S-cis)-3-Amino-4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-2-azetidinone | N[C@@H]1C(N[C@@H]1N1C(C2=CC=CC=C2C1=O)=O)=O | C11H9N3O3
